US06897231B2
A. 3-[3-(2-Furylcarbonylamino)phenyl]-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide
To a solution of 3-(3-aminophenyl)-]-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide (0.200 g, 0.59 mmol) in 6 mL of tetrahydrofuran was added 2-furanoic acid chloride (0.064 mL, 0.65 mmol), followed by triethyl amine (0.091 mL, 0.65 mmol). The reaction was stirred at room temperature overnight. The crude mixture was partitioned between water and ethyl acetate. The extracts were concentrated to dryness. The crude was not purified (yield not calculated). ES-MS (m/z) 431 [M+H]+.

reactant | perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 0.59 mmol, 0.200 g | O1C(CCCC1)N1N=CC2=CC(=CC=C12)C(=O)N | C13H15N3O2
reactant | 2-furanoic acid chloride | 0.65 mmol, 0.064 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | triethyl amine | 0.65 mmol, 0.091 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 3-[3-(2-Furylcarbonylamino)phenyl]-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | O1C(=CC=C1)C(=O)NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C24H22N4O4
